US08445525B2
(a) (1S)—N-Boc-1-(7-chloro-imidazo[1,2-a]pyridin-2-yl)-3-methyl-butylamine
1.68 g (6.37 mmol) tert.-butyl [1-(2-chloro-acetyl)-3-methyl-butyl]-carbamate in 15 ml of methanol are combined with 819 mg (6.37 mmol) 2-amino-4-chloro-pyridine at ambient temperature with stirring and the mixture is refluxed for 3 days. After evaporation i. vac. the residue is combined with 5% sodium hydrogen carbonate solution and stirred for 20 h at ambient temperature. Then it is extracted with dichloromethane, the combined organic phases are dried over sodium sulphate and evaporated down completely i. vac. The residue is purified by chromatography on silica gel (eluting gradient: dichloromethane/ethanol=100:0->94:6).

reactant | tert.-butyl [1-(2-chloro-acetyl)-3-methyl-butyl]-carbamate | 6.37 mmol, 1.68 g | ClCC(=O)C(CC(C)C)NC(OC(C)(C)C)=O | C12H22ClNO3
reactant | 2-amino-4-chloro-pyridine | 6.37 mmol, 819 mg | NC1=NC=CC(=C1)Cl | C5H5ClN2
solvent | methanol | 15 ml | CO | CH4O
product | (1S)—N-Boc-1-(7-chloro-imidazo[1,2-a]pyridin-2-yl)-3-methyl-butylamine | C(=O)(OC(C)(C)C)N[C@@H](CC(C)C)C=1N=C2N(C=CC(=C2)Cl)C1 | C17H24ClN3O2
